US07982036B2
In a manner substantially similar to that described above 4-(3-chloro-4-fluorophenylamino)-6-chloropyrimidine and 2-methoxy-5-nitroaniline gave N-(5-amino-2-methoxyphenyl)-N′-(3-chloro-4-fluorophenyl)pyrimidine-4,6-diamine. (Int-G) MS (m/z): 360/362 (M+1).

reactant | 4-(3-chloro-4-fluorophenylamino)-6-chloropyrimidine | ClC=1C=C(C=CC1F)NC1=NC=NC(=C1)Cl | C10H6Cl2FN3
reactant | 2-methoxy-5-nitroaniline | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
product | N-(5-amino-2-methoxyphenyl)-N′-(3-chloro-4-fluorophenyl)pyrimidine-4,6-diamine | NC=1C=CC(=C(C1)NC1=NC=NC(=C1)NC1=CC(=C(C=C1)F)Cl)OC | C17H15ClFN5O
